US07351719B2
185) (E)-3-[5-(4-chloro-phenyl )-pyridin-2-yl]-N-methyl-N-(4-piperidin-1-ylmethyl-phenyl) -acrylamide
Prepared analogously to Example 143 starting from (E)-3-[5-(4-chloro-phenyl)-pyridin-2-yl]-acrylic acid (Z34b) and methyl-(4-piperidin-1-ylmethyl-phenyl)-amine. The crude product was purified by column chromatography (silica gel, dichloromethane/EtOH/conc. aqueous ammonia 50:10:0.1).

reactant | (E)-3-[5-(4-chloro-phenyl)-pyridin-2-yl]-acrylic acid | ClC1=CC=C(C=C1)C=1C=CC(=NC1)/C=C/C(=O)O | C14H10ClNO2
reactant | methyl-(4-piperidin-1-ylmethyl-phenyl)-amine | CNC1=CC=C(C=C1)CN1CCCCC1 | C13H20N2
product | (E)-3-[5-(4-chloro-phenyl )-pyridin-2-yl]-N-methyl-N-(4-piperidin-1-ylmethyl-phenyl) -acrylamide | ClC1=CC=C(C=C1)C=1C=CC(=NC1)/C=C/C(=O)N(C1=CC=C(C=C1)CN1CCCCC1)C | C27H28ClN3O
